US04496584
Synthesis of 6-amidino-2-naphthyl 4-cyclohexylbutyrate (Compound No. 15)
To a solution of 3.0 g of 4-cyclohexylbutyric acid in 50 ml of anhydrous pyridine, while being cooled in ice and stirred, was added 4.4 g of DCC. After 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture, and the mixture was stirred for 24 hours at room temeprature. The precipitate which was formed upon addition of ethyl ether was collected by filtration, admixed with dimethylformamide. Ethyl ether was added to the filtrate, and the precipitate was collected by filtration. On recrystallization from a dimethylformamide ethyl ether mixture there were obtained 3.2 g of a white powder of 6-amidino-2-naphthyl 4-cyclohexylbutyrate methanesulfonate.

reactant | 4-cyclohexylbutyric acid | 3.0 g | C1(CCCCC1)CCCC(=O)O | C10H18O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl 4-cyclohexylbutyrate | 3.2 g | C1(CCCCC1)CCCC(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C21H26N2O2
